US05326760
(a) 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(4-sulfamoyl-benzyl)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester
100 mg of N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine, prepared as in Example L, was added to 0.8 mL DMF. 39 mg of hydroxybenzotriazol.H2O was added to the mixture followed by 57 mg of 4-aminoethylbenzenesulfonamide, 0.03 mL of N-methyl-4-morpholine, and 53 mg of dicyclohexylcarbodiimide. The mixture was stirred 72 h, and diluted with dichloromethane. The solvents were removed by evaporation and the resulting solid was purified by reverse phase H.P.L.C. The solvents were removed by lyopholization to give the title compound as a white solid; 104 mg.

reactant | N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine | 100 mg | CC(C)(OC(=O)[C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)O)C | C26H32N2O6
reactant | hydroxybenzotriazol | 39 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 4-aminoethylbenzenesulfonamide | 57 mg | NCCC1=CC=C(C=C1)S(=O)(=O)N | C8H12N2O2S
reactant | dicyclohexylcarbodiimide | 53 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | H2O | O | H2O
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(4-sulfamoyl-benzyl)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)NCC3=CC=C(C=C3)S(N)(=O)=O)=O | C33H40N4O7S
